US07994185B2
Step A: 3-[2-(1,1-dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluoroaniline
Following a procedure analogous to the procedure described in Example 25 using 3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluoroaniline (1.0 g, 2.76 mmol) and dimethylzinc (2.76 mL, 5.51 mmol), the title compound was obtained as an off white solid (0.8 g, 85% yield). MS (ESI): 343 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluoroaniline | 2.76 mmol, 1.0 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(N)C=CC1)F | C17H16ClFN4S
reactant | dimethylzinc | 5.51 mmol, 2.76 mL | C[Zn]C
product | 3-[2-(1,1-dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluoroaniline | CC(C)(C)C=1SC(=C(N1)C=1C(=C(N)C=CC1)F)C1=NC(=NC=C1)C | C18H19FN4S
